US05574044
A mixture of 0.15 g of 1,3-dihydro-1-{1-[1-(6-chloro-2-pyrazinecarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one, 0.26 g of sodium azide and 5 mL of anhydrous N,N-dimethylformamide was stirred for 24 h, then concentrated to dryness under reduced pressure. The residue was partitioned between 50 mL of chloroform and 5 mL of saturated sodium carbonate and the organic extracts dried over MgSO4. Removal of solvents under reduced pressure and drying under vacuum gave 0.16 g of crude 1,3-dihydro-1-{1-[1-(6-azido-2-pyrazinecarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one.

reactant | 1,3-dihydro-1-{1-[1-(6-chloro-2-pyrazinecarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one | 0.15 g | ClC1=CN=CC(=N1)C(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C22H25ClN6O2
reactant | sodium azide | 0.26 g | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1,3-dihydro-1-{1-[1-(6-azido-2-pyrazinecarbonyl)piperidin-4-yl]piperidin-4-yl}-2H-benzimidazol-2-one | 0.16 g | N(=[N+]=[N-])C1=CN=CC(=N1)C(=O)N1CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C22H25N9O2
